US08895571B2
Step B: tert-butyl {(1S)-2-cyclohexyl-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}carbamate
A mixture of tert-butyl[(1S)-2-cyclohexyl-1-(hydroxymethyl)ethyl]carbamate (3.3 g, 13 mmol), phthalimide (2.10 g, 14.3 mmol), triphenylphosphine (3.75 g, 14.3 mmol), diisopropyl azodicarboxylate (3.58 mL, 18.2 mmol) in tetrahydrofuran (30 mL, 400 mmol) was stirred at room temperature overnight. Direct purification by combi-flash chromatography afforded 2.8 g (56% yield) of the desired product. LC-MS found: 287.1 (M−Boc)+.

reactant | tert-butyl[(1S)-2-cyclohexyl-1-(hydroxymethyl)ethyl]carbamate | 13 mmol, 3.3 g | C(C)(C)(C)OC(N[C@@H](CC1CCCCC1)CO)=O | C14H27NO3
reactant | phthalimide | 14.3 mmol, 2.10 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 14.3 mmol, 3.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 18.2 mmol, 3.58 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tetrahydrofuran | 400 mmol, 30 mL | O1CCCC1 | C4H8O
product | tert-butyl {(1S)-2-cyclohexyl-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}carbamate | 2.8 g, 56% yield | C1(CCCCC1)C[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)NC(OC(C)(C)C)=O | C22H30N2O4
